* Doi voi short-circuit, xem nhu nguon ap co gia tri bang 0V  (Vi du: V2)
V1 3 0 AC 20
R1 3 1 10
V2 4 1 0   
C1 4 0 0.1
L1 1 2 1
L2 2 0 0.5
F1 0 2 V2 2